US05340831
Preparation of 3,4-dichlorophenethyl bromide
Phosphorus tribromide (2.17 g) was added, dropwise, to a solution of 3,4-dichlorophenethyl alcohol (4.26 g) in carbon tetrachloride (30 ml). The mixture was stirred at room temperature for 10 minutes then heated under reflux for 2 hours. 5% Aqueous sodium carbonate (10 ml) was added dropwise and the mixture was extracted with dichloromethane (3×70 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a yellow oil which was purified by column chromatography on silica eluting with dichloromethane containing hexane (30% down to 0%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a colourless oil, yield, 1.8 g.

reactant | Phosphorus tribromide | 2.17 g | P(Br)(Br)Br | Br3P
reactant | 3,4-dichlorophenethyl alcohol | 4.26 g | ClC=1C=C(CCO)C=CC1Cl | C8H8Cl2O
reactant | sodium carbonate | 10 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3,4-dichlorophenethyl bromide | ClC=1C=C(CCBr)C=CC1Cl | C8H7BrCl2
